US08242125B2
To a solution of 4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,7-dihydro pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester in DCM (20 mL), TFA (20 mL, 260 mmol) is added at 0° C. The reaction is allowed to reach room temperature and stirred for an additional 1 h. TFA/DCM are evaporated and then the product is taken up in EtOAc (100 mL) and washed with dilute NH4OH in H2O (20 mL). The organic layer is separated and the water layer is extracted further with EtOAc (2 x). The combined organics are dried and evaporated. The crude residue is separated via FCC (eluted with DCM/MeOH/NH4OH (100:0:0 to 93:6:1)) to give 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl phenyl)-amide. MS (ESI) m/z 440.9 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.55 (s, 1H) 8.33 (d, J=8.84 Hz, 1H) 8.06 (br. S., 1H) 7.89 (d, J=8.34 Hz, 1H) 7.94 (d, J=3.54 Hz, 1H) 7.57 (t, J=7.96 Hz, 1 H) 7.41-7.46 (m, 2H) 7.13 (dd, J=9.09, 2.27 Hz, 1H) 6.74 (d, J=3.03 Hz, 1H) 4.26 (d, J=12.13 Hz, 4H).

reactant | 4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,7-dihydro pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C27H24F3N5O4
reactant | TFA | 260 mmol, 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNC2)(F)F | C22H16F3N5O2
